US07547729B2
1-(4-Methoxy-3-fluorophenyl)-3-(4-hydroxy-3,5-dimethylphenyl)prop-2-en-1-one
This compound was synthesized from 4′-methoxy-3′-fluoroacetophenone and 3,5-dimethyl-4-hydroxybenzaldehyde according to general method 1 described earlier.

reactant | 4′-methoxy-3′-fluoroacetophenone | COC1=C(C=C(C=C1)C(C)=O)F | C9H9FO2
reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
product | 1-(4-Methoxy-3-fluorophenyl)-3-(4-hydroxy-3,5-dimethylphenyl)prop-2-en-1-one | COC1=C(C=C(C=C1)C(C=CC1=CC(=C(C(=C1)C)O)C)=O)F | C18H17FO3
